### PR TITLE
[Merged by Bors] - feat: add lemmas for working with orders of analytic functions

### PR DESCRIPTION
**Pull request by kebekus**
Add three simple lemmas to the AnalyticAt namespace, to simplify working with orders of analytic functions.

These lemmas are used in [Project VD](https://github.com/kebekus/ProjectVD), which aims to formalize Value Distribution Theory for meromorphic functions on the complex plane.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Analysis/Analytic/IsolatedZeros.lean [hunk 1]
```diff
@@ -217,6 +217,27 @@ lemma order_eq_nat_iff (hf : AnalyticAt 𝕜 f z₀) (n : ℕ) : hf.order = ↑n
     refine ⟨fun hn ↦ (WithTop.coe_inj.mp hn : h.choose = n) ▸ h.choose_spec, fun h' ↦ ?_⟩
     rw [unique_eventuallyEq_pow_smul_nonzero h.choose_spec h']
 
+/- An analytic function `f` has finite order at a point `z₀` iff locally looks
```
Comment (grunweg) [inline Mathlib/Analysis/Analytic/IsolatedZeros.lean:220]: This docstring is missing an object, e.g. "iff it locally looks".

File: Mathlib/Analysis/Analytic/IsolatedZeros.lean [hunk 2]
```diff
@@ -217,6 +217,27 @@ lemma order_eq_nat_iff (hf : AnalyticAt 𝕜 f z₀) (n : ℕ) : hf.order = ↑n
...
+lemma order_neq_top_iff (hf : AnalyticAt 𝕜 f z₀) :
+    hf.order ≠ ⊤ ↔ ∃ (g : 𝕜 → E), AnalyticAt 𝕜 g z₀ ∧ g z₀ ≠ 0
+      ∧ f =ᶠ[𝓝 z₀] fun z ↦ (z - z₀) ^ (hf.order.toNat) • g z := by
+  erw [← hf.order_eq_nat_iff]
+  exact ⟨fun h₁f ↦ (ENat.coe_toNat h₁f).symm, fun h₁f ↦ ENat.coe_toNat_eq_self.mp h₁f.symm ⟩
+
+/- An analytic function has order zero at a point iff it does not vanish there. -/
+lemma order_eq_zero_iff (hf : AnalyticAt 𝕜 f z₀) :
+    hf.order = 0 ↔ f z₀ ≠ 0 := by
+  rw [(by rfl : (0 : ENat) = (0 : Nat)), order_eq_nat_iff hf 0]
```
Comment (grunweg) [inline Mathlib/Analysis/Analytic/IsolatedZeros.lean:232]: This `rfl` proof ought to exist somewhere. Can you replace it by the right `rw` lemma (or add that, if missing)?

File: Mathlib/Analysis/Analytic/IsolatedZeros.lean [hunk 3]
```diff
@@ -217,6 +217,27 @@ lemma order_eq_nat_iff (hf : AnalyticAt 𝕜 f z₀) (n : ℕ) : hf.order = ↑n
...
+  constructor
+  · intro ⟨g, _, _, hg⟩; simpa [Eventually.self_of_nhds hg]
+  · intro hz; use f; exact ⟨hf, hz, by simp⟩
```
Comment (grunweg) [inline Mathlib/Analysis/Analytic/IsolatedZeros.lean:235]: You can definitely compress this line, by making `f` part of the exact.

You can also write it as `exact fun hz \mapsto  ⟨f, hf, hz, by simp⟩` (similarly for the line above);
then you could combine this into one big
```
exact ⟨fun  ⟨g, _, _, hg⟩ \mapsto by simpa [Eventually.self_of_nhds hg],
  fun hz \mapsto ⟨f, hf, hz, by simp⟩
```
with \mapsto replaced by the corresponding symbol.

I think the first suggestion is definitely better. This second one might be a matter of taste. (If you think that "this proof is mathematically trivial", I'd say you can golf it down all the way. If not, using constructor is fine.)

File: Mathlib/Analysis/Analytic/IsolatedZeros.lean [hunk 4]
```diff
@@ -217,6 +217,27 @@ lemma order_eq_nat_iff (hf : AnalyticAt 𝕜 f z₀) (n : ℕ) : hf.order = ↑n
     refine ⟨fun hn ↦ (WithTop.coe_inj.mp hn : h.choose = n) ▸ h.choose_spec, fun h' ↦ ?_⟩
     rw [unique_eventuallyEq_pow_smul_nonzero h.choose_spec h']
 
+/- An analytic function `f` has finite order at a point `z₀` iff locally looks
+  like `(z - z₀) ^ order • g`, where `g` is analytic and does not vanish at
+  `z₀`. -/
+lemma order_neq_top_iff (hf : AnalyticAt 𝕜 f z₀) :
+    hf.order ≠ ⊤ ↔ ∃ (g : 𝕜 → E), AnalyticAt 𝕜 g z₀ ∧ g z₀ ≠ 0
+      ∧ f =ᶠ[𝓝 z₀] fun z ↦ (z - z₀) ^ (hf.order.toNat) • g z := by
+  erw [← hf.order_eq_nat_iff]
```
Comment (grunweg) [inline Mathlib/Analysis/Analytic/IsolatedZeros.lean:226]: In general, `erw` is a code smell: usually it indicates something sub-optimal.
Can you tell what `rw`s you need to use? (Maybe there are even some missing API lemmas.)

If you get stuck, feel free to ask for help here or on zulip.

File: Mathlib/Analysis/Analytic/IsolatedZeros.lean [hunk 5]
```diff
@@ -217,6 +217,27 @@ lemma order_eq_nat_iff (hf : AnalyticAt 𝕜 f z₀) (n : ℕ) : hf.order = ↑n
...
+lemma order_eq_zero_iff (hf : AnalyticAt 𝕜 f z₀) :
+    hf.order = 0 ↔ f z₀ ≠ 0 := by
+  rw [(by rfl : (0 : ENat) = (0 : Nat)), order_eq_nat_iff hf 0]
+  constructor
+  · intro ⟨g, _, _, hg⟩; simpa [Eventually.self_of_nhds hg]
+  · intro hz; use f; exact ⟨hf, hz, by simp⟩
+
+/- An analytic function vanishes at a point if its order vanishes when converted to ℕ. -/
+lemma zero_if_order_toNat_eq_zero (hf : AnalyticAt 𝕜 f z₀) :
+    hf.order.toNat ≠ 0 → f z₀ = 0 := by simp [hf.order_eq_zero_iff]; tauto
```
Comment (grunweg) [inline Mathlib/Analysis/Analytic/IsolatedZeros.lean:239]: Purely aesthetic question: does the theorem statement still fit on the same line?
(I'd consider that slightly nicer. This is a matter of taste, i.e. optional for you to follow.)

**Review by grunweg — COMMENTED** [review]
Thanks for your PR! I happened to have some time, so took a look. I have a few comments - some are just about style/should be easy to address. A few are about deeper aspects (like library design); if you'd like help with these, don't hesitate to ask.

File: Mathlib/Analysis/Analytic/IsolatedZeros.lean (hunk 1 above)
Comment (kebekus) [reply Mathlib/Analysis/Analytic/IsolatedZeros.lean:220]: Done.

File: Mathlib/Analysis/Analytic/IsolatedZeros.lean (hunk 4 above)
Comment (kebekus) [reply Mathlib/Analysis/Analytic/IsolatedZeros.lean]: The issue is that the lemma `order_neq_top_iff` speaks about `f =ᶠ[𝓝 z₀]  F` while the theorem `order_eq_nat_iff` speaks about `∀ᶠ (z : 𝕜) in 𝓝 z₀, f z = F z`. These two statements are definitionally equal (that´s the definition of `EventuallyEq`) but the `rw` and `simp_rw` tactics are not able to make the match. I have replaced the offending line by `unfold EventuallyEq; rw [← hf.order_eq_nat_iff]`, but one could think about adding a theorem `EventuallyEq.def` that can be used with `rw`. Please let me know if you want me to add that.

File: Mathlib/Analysis/Analytic/IsolatedZeros.lean (hunk 5 above)
Comment (kebekus) [reply Mathlib/Analysis/Analytic/IsolatedZeros.lean:239]: It does. Changed following your suggestion.

File: Mathlib/Analysis/Analytic/IsolatedZeros.lean (hunk 3 above)
Comment (kebekus) [reply Mathlib/Analysis/Analytic/IsolatedZeros.lean]: Implemented following your suggestion #1.

File: Mathlib/Analysis/Analytic/IsolatedZeros.lean (hunk 2 above)
Comment (kebekus) [reply Mathlib/Analysis/Analytic/IsolatedZeros.lean:232]: Found it an added it.

File: Mathlib/Analysis/Analytic/IsolatedZeros.lean (hunk 4 above)
Comment (loefflerd) [reply Mathlib/Analysis/Analytic/IsolatedZeros.lean]: Does `rw [EventuallyEq]` work here?

File: Mathlib/Analysis/Analytic/IsolatedZeros.lean [hunk 6]
```diff
@@ -217,6 +217,27 @@ lemma order_eq_nat_iff (hf : AnalyticAt 𝕜 f z₀) (n : ℕ) : hf.order = ↑n
...
+      ∧ f =ᶠ[𝓝 z₀] fun z ↦ (z - z₀) ^ (hf.order.toNat) • g z := by
+  unfold EventuallyEq; rw [← hf.order_eq_nat_iff]
+  exact ⟨fun h₁f ↦ (ENat.coe_toNat h₁f).symm, fun h₁f ↦ ENat.coe_toNat_eq_self.mp h₁f.symm ⟩
+
+/- An analytic function has order zero at a point iff it does not vanish there. -/
+lemma order_eq_zero_iff (hf : AnalyticAt 𝕜 f z₀) :
+    hf.order = 0 ↔ f z₀ ≠ 0 := by
+  rw [← ENat.coe_zero, order_eq_nat_iff hf 0]
+  constructor
+  · intro ⟨g, _, _, hg⟩; simpa [hg.self_of_nhds]
```
Comment (loefflerd) [inline Mathlib/Analysis/Analytic/IsolatedZeros.lean:234]: I think the usual mathilb library style is to put each tactic on a new line (rather than using "`;`").

**Review by loefflerd — COMMENTED** [review]
This looks good to me, the new lemmas will certainly add usability. I left a couple of very minor comments.

File: Mathlib/Analysis/Analytic/IsolatedZeros.lean [hunk 7]
```diff
@@ -217,6 +217,27 @@ lemma order_eq_nat_iff (hf : AnalyticAt 𝕜 f z₀) (n : ℕ) : hf.order = ↑n
...
     rw [unique_eventuallyEq_pow_smul_nonzero h.choose_spec h']
 
+/- An analytic function `f` has finite order at a point `z₀` iff it locally looks
+  like `(z - z₀) ^ order • g`, where `g` is analytic and does not vanish at
+  `z₀`. -/
+lemma order_neq_top_iff (hf : AnalyticAt 𝕜 f z₀) :
+    hf.order ≠ ⊤ ↔ ∃ (g : 𝕜 → E), AnalyticAt 𝕜 g z₀ ∧ g z₀ ≠ 0
+      ∧ f =ᶠ[𝓝 z₀] fun z ↦ (z - z₀) ^ (hf.order.toNat) • g z := by
+  unfold EventuallyEq; rw [← hf.order_eq_nat_iff]
+  exact ⟨fun h₁f ↦ (ENat.coe_toNat h₁f).symm, fun h₁f ↦ ENat.coe_toNat_eq_self.mp h₁f.symm ⟩
```
Comment (loefflerd) [inline Mathlib/Analysis/Analytic/IsolatedZeros.lean:227]: It seems my earlier suggestion of `rw [EventuallyEq]` doesn't work, because `rw` can't see inside the `∃ g` binder; but `simp_rw` or `simp only` works. One can golf the proof down to the following:
```suggestion
  simp only [← ENat.coe_toNat_eq_self, Eq.comm, EventuallyEq, ← hf.order_eq_nat_iff]
```

File: Mathlib/Analysis/Analytic/IsolatedZeros.lean (hunk 6 above)
Comment (kebekus) [reply Mathlib/Analysis/Analytic/IsolatedZeros.lean:234]: Reformatted following your suggestion.

File: Mathlib/Analysis/Analytic/IsolatedZeros.lean (hunk 4 above)
Comment (kebekus) [reply Mathlib/Analysis/Analytic/IsolatedZeros.lean]: Implemented, following David's suggestion below.

**Comment by kebekus** [comment]
@grunweg @loefflerd Thanks for taking the time to look at this. I implemented all your suggestions.

@loefflerd Dear David, great seeing you here. I hope you are doing as well as we are.

File: Mathlib/Analysis/Analytic/IsolatedZeros.lean [hunk 8]
```diff
@@ -217,6 +217,28 @@ lemma order_eq_nat_iff (hf : AnalyticAt 𝕜 f z₀) (n : ℕ) : hf.order = ↑n
     refine ⟨fun hn ↦ (WithTop.coe_inj.mp hn : h.choose = n) ▸ h.choose_spec, fun h' ↦ ?_⟩
     rw [unique_eventuallyEq_pow_smul_nonzero h.choose_spec h']
 
+/- An analytic function `f` has finite order at a point `z₀` iff it locally looks
+  like `(z - z₀) ^ order • g`, where `g` is analytic and does not vanish at
+  `z₀`. -/
+lemma order_neq_top_iff (hf : AnalyticAt 𝕜 f z₀) :
+    hf.order ≠ ⊤ ↔ ∃ (g : 𝕜 → E), AnalyticAt 𝕜 g z₀ ∧ g z₀ ≠ 0
+      ∧ f =ᶠ[𝓝 z₀] fun z ↦ (z - z₀) ^ (hf.order.toNat) • g z := by
+  simp only [← ENat.coe_toNat_eq_self, Eq.comm, EventuallyEq, ← hf.order_eq_nat_iff]
```
Comment (grunweg) [inline Mathlib/Analysis/Analytic/IsolatedZeros.lean:226]: This is a terminal simp (i.e., the `simp` tactic to close a goal). In general, it's more robust to not "squeeze" it, i.e. just use `simp` or `simp [lemmas]` if possible --- unless there's a performance reason.

File: Mathlib/Analysis/Analytic/IsolatedZeros.lean [hunk 9]
```diff
@@ -217,6 +217,28 @@ lemma order_eq_nat_iff (hf : AnalyticAt 𝕜 f z₀) (n : ℕ) : hf.order = ↑n
...
+    hf.order = 0 ↔ f z₀ ≠ 0 := by
+  rw [← ENat.coe_zero, order_eq_nat_iff hf 0]
+  constructor
+  · intro ⟨g, _, _, hg⟩
+    simpa [hg.self_of_nhds]
+  · exact fun hz ↦ ⟨f, hf, hz, by simp⟩
+
+/- An analytic function vanishes at a point if its order vanishes when converted to ℕ. -/
+lemma zero_if_order_toNat_eq_zero (hf : AnalyticAt 𝕜 f z₀) : hf.order.toNat ≠ 0 → f z₀ = 0 := by
+  simp [hf.order_eq_zero_iff]
```
Comment (grunweg) [inline Mathlib/Analysis/Analytic/IsolatedZeros.lean:239]: This is now a non-terminal simp: in general, we prefer to avoid these. On the other hand, `tauto` is a pretty robust tactic, so in this case, I'd say it's fine. (You can use the `flexible` linter to check: place `set_option linter.flexible true` above your lemma; no warnings means it's fine.)

File: Mathlib/Analysis/Analytic/IsolatedZeros.lean (hunk 8 above)
Comment (grunweg) [reply Mathlib/Analysis/Analytic/IsolatedZeros.lean:226]:
```suggestion
  simp [← ENat.coe_toNat_eq_self, Eq.comm, EventuallyEq, ← hf.order_eq_nat_iff]

**Review by grunweg — COMMENTED** [review]
One last thing, then this is good to go.
maintainer delegate

File: Mathlib/Analysis/Analytic/IsolatedZeros.lean (hunk 8 above)
Comment (kebekus) [reply Mathlib/Analysis/Analytic/IsolatedZeros.lean:226]: Understood. I hope I will remember this next time.

File: Mathlib/Analysis/Analytic/IsolatedZeros.lean (hunk 9 above)
Comment (kebekus) [reply Mathlib/Analysis/Analytic/IsolatedZeros.lean:239]: Ok. I understand that I don't need to do anything here, but remember for next time to avoid those.

File: Mathlib/Analysis/Analytic/IsolatedZeros.lean (hunk 8 above)
Comment (loefflerd) [reply Mathlib/Analysis/Analytic/IsolatedZeros.lean:226]: @grunweg I totally agree with the general point you're making, that squeezing terminal simps can cause issues with robustness; but I think this particular line (which was one of my suggestions above) is an exception to the general rule. 

Squeezing `simp [foo, bar]` to `simp only [foo, bar, baz]` does indeed make the code less robust, since it is vulnerable to breakage if the name of `baz` changes. However, if un-squeezed `simp` doesn't find _any_ of the correct lemmas – as in this case – then it seems to me that it's equally robust with or without the `only`; both `simp [foo, bar]` and `simp only [foo, bar]` will break if `foo` or `bar` changes – and the `only` version is faster. Wouldn't you agree?

(With apologies to @kebekus for hijacking his PR with a lengthy debate about such a minor code-hygiene point.)

Comment (grunweg) [reply Mathlib/Analysis/Analytic/IsolatedZeros.lean:226]: @loefflerd This rule is indeed relatively new (as was discussed in the reviewers channel [on zulip](https://leanprover.zulipchat.com/#narrow/channel/345428-mathlib-reviewers/topic/request.3A.20discourage.20squeezing.20terminal.20simps.3F). I think you're making a fair point; would you like to also mention it there? Let's centralise these discussions a bit :-)

You have convinced me that this particular line would also be fine with `simp only`. (I may have a slight preference, but not a strong one.) In any case, I don't think anything *needs* to change now.

File: Mathlib/Analysis/Analytic/IsolatedZeros.lean (hunk 9 above)
Comment (jcommelin) [inline Mathlib/Analysis/Analytic/IsolatedZeros.lean:239]:
```suggestion
/- An analytic function vanishes at a point if its order is nonzero when converted to ℕ. -/
lemma apply_eq_zero_of_order_toNat_ne_zero (hf : AnalyticAt 𝕜 f z₀) : hf.order.toNat ≠ 0 → f z₀ = 0 := by
  simp [hf.order_eq_zero_iff]
```

**Review by jcommelin — COMMENTED** [review]
bors d+

File: Mathlib/Analysis/Analytic/IsolatedZeros.lean (hunk 9 above)
Comment (kebekus) [reply Mathlib/Analysis/Analytic/IsolatedZeros.lean]: @jcommelin Now this is embarrassing. Thanks for catching that.
